US07875745B2
3-(1-{(2S)-2-[(S)-(3,5-dimethoxy-4-methylphenyl)(hydroxy)methyl]-5-phenylpentyl}-1H-pyrrol-3-yl)propanoic acid
Using ethyl1-{(2S)-2-[(S)-{[tert-butyl(dimethyl)silyl]oxy}(3,5-dimethoxy-4-methylphenyl)methyl]-5-phenylpentyl}-1H-pyrrole-3-carboxylate (produced by carrying out procedures similar to Example 24 using the compound produced in Example 16 and ethyl1H-pyrrole-3-carboxylate) instead of ethyl1-{(2S)-2-[(S)-{[tert-butyl(dimethyl)silyl]oxy}(3,5-dimethoxy-4-methylphenyl)methyl]-5-phenylpentyl}-1H-pyrazole-4-carboxylate, procedures similar to Example 29→Example 33→Example 34→Example 36→Example 37 were carried out to give the title compound having the following physical properties.

reactant | ethyl1-{(2S)-2-[(S)-{[tert-butyl(dimethyl)silyl]oxy}(3,5-dimethoxy-4-methylphenyl)methyl]-5-phenylpentyl}-1H-pyrrole-3-carboxylate | C(C)OC(=O)C1=CN(C=C1)C[C@H](CCCC1=CC=CC=C1)[C@@H](C1=CC(=C(C(=C1)OC)C)OC)O[Si](C)(C)C(C)(C)C | C34H49NO5Si
reactant | ethyl1H-pyrrole-3-carboxylate | C(C)OC(=O)C1=CNC=C1 | C7H9NO2
reactant | ethyl1-{(2S)-2-[(S)-{[tert-butyl(dimethyl)silyl]oxy}(3,5-dimethoxy-4-methylphenyl)methyl]-5-phenylpentyl}-1H-pyrazole-4-carboxylate | C(C)OC(=O)C=1C=NN(C1)C[C@H](CCCC1=CC=CC=C1)[C@@H](C1=CC(=C(C(=C1)OC)C)OC)O[Si](C)(C)C(C)(C)C | C33H48N2O5Si
product | 3-(1-{(2S)-2-[(S)-(3,5-dimethoxy-4-methylphenyl)(hydroxy)methyl]-5-phenylpentyl}-1H-pyrrol-3-yl)propanoic acid | COC=1C=C(C=C(C1C)OC)[C@H]([C@H](CN1C=C(C=C1)CCC(=O)O)CCCC1=CC=CC=C1)O | C28H35NO5
